US07186716B2
6-Chloro-3-(1H-pyrrol-3-yl)-1H-pyrazolo[3,4-b]pyridine
A mixture of (2,6-dichloro-pyridin-3-yl)-(1H-pyrrol-3-yl)-methanone (300 mg) and hydrazine hydrate (0.2 mL) in ethanol (10 mL) was heated at 90° C. for 20 hours. The reaction was concentrated to 6 mL, diluted with water (2 mL) and cooled. The precipitate was collected and dried to give 160 mg of the titled compound.

reactant | (2,6-dichloro-pyridin-3-yl)-(1H-pyrrol-3-yl)-methanone | 300 mg | ClC1=NC(=CC=C1C(=O)C1=CNC=C1)Cl | C10H6Cl2N2O
reactant | hydrazine hydrate | 0.2 mL | O.NN
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 6-Chloro-3-(1H-pyrrol-3-yl)-1H-pyrazolo[3,4-b]pyridine | 160 mg | ClC1=CC=C2C(=N1)NN=C2C2=CNC=C2 | C10H7ClN4
